US04507486
Seventy-five grams of a mixture containing 24.3% 3,5-bis(trichloromethyl pyridine and 6.5% 6-chloro-3,5-bis(trichloromethyl)pyridine were chlorinated with 70 grams per hour of chlorine at 190° C. for 8 hours. Analysis is listed in Table 8. The 5,6-dichloro-3-trichloromethyl pyridine concentration went from zero to 0.5% and the 2,6-dichloro-3,5-bis(trichloromethyl)pyridine went from zero to 0.7%. The 3,5-bis(trichloromethyl)pyridine went from 24.3% to 18.1% while the 6-chloro-3,5-bis(trichloromethyl)pyridine increased from 6.5% to 14.0%. Temperatures below 190° C. give unacceptably slow reaction rates to produce 5,6-dichloro-3-trichloromethyl pyridine and 2,3,5,6-tetrachloropyriidine.

reactant | trichloromethyl pyridine | ClC(Cl)(Cl)C1=NC=CC=C1 | C6H4Cl3N
reactant | 6-chloro-3,5-bis(trichloromethyl)pyridine | ClC1=C(C=C(C=N1)C(Cl)(Cl)Cl)C(Cl)(Cl)Cl | C7H2Cl7N
reactant | chlorine | ClCl | Cl2
product | 5,6-dichloro-3-trichloromethyl pyridine | ClC=1C=C(C=NC1Cl)C(Cl)(Cl)Cl | C6H2Cl5N
